US05436273
c) Copper (I)-2-phthalimido-3-butynide
To a solution of copper sulfate pentahydrate (0.098 mol), under nitrogen, in 100 ml of 28% ammonium hydroxide and water (315 ml), hydroxylamine hydrochloride (0.175 mol) is added. After the change in color (blue to green) 62.5 ml of acetone is added. Immediately afterwards, a solution of 2-phthalimido-3-butyne (0.0875 mol) in 280 ml of acetone is added. After 5 minutes of vigorous stirring, a solution of 30.8 ml of glacial acetic acid in 455 ml of water is added. The yellow precipitate is filtered off, washed and dried in vacuo to yield the title product (yield 91%).

reactant | copper sulfate pentahydrate | 0.098 mol | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
reactant | hydroxylamine hydrochloride | 0.175 mol | Cl.NO
reactant | 2-phthalimido-3-butyne | 0.0875 mol | C1(C=2C(C(N1C(C)C#C)=O)=CC=CC2)=O | C12H9NO2
reactant | acetic acid | 30.8 ml | C(C)(=O)O | C2H4O2
solvent | ammonium hydroxide | 100 ml | [OH-].[NH4+]
solvent | water | 315 ml | O | H2O
solvent | acetone | 280 ml | CC(=O)C | C3H6O
solvent | water | 455 ml | O | H2O
solvent | acetone | 62.5 ml | CC(=O)C | C3H6O
product | Copper (I) 2-phthalimido-3-butynide | yield 91% | [Cu+].C1(C=2C(C(N1C([CH2-])C#C)=O)=CC=CC2)=O | InChI=1S/C12H8NO2.Cu/c1-3-8(2)13-11(14)9-6-4-5-7-10(9)12(13)15;/h1,4-8H,2H2;/q-1;+1
